US05958942
5-Ethoxycarbonyl-3-nitroimidazo[1,2-a]pyridine
To a solution of 19.02 g (0.10 mol) of 5-ethoxycarbonylimidazo[1,2-a]pyridine in 50 ml of conc. sulfuric acid was added dropwise, while stirring under ice-cooling, 40 ml of conc. nitric acid. The mixture was stirred for 20 minutes at the same temperature. The reaction mixture was poured into ice-water, which was neutralized with a 10% aqueous solution of NaOH. The resulting precipitates were collected by filtration, washed with water and dried to afford 20.38 g of the desired compound (86.6%, a pale yellow solid).

reactant | 5-ethoxycarbonylimidazo[1,2-a]pyridine | 0.10 mol, 19.02 g | C(C)OC(=O)C1=CC=CC=2N1C=CN2 | C10H10N2O2
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Ethoxycarbonyl-3-nitroimidazo[1,2-a]pyridine | 20.38 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)[N+](=O)[O-] | C10H9N3O4
